US07615642B2
Step G: 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-amine
N-{2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}acetamide (500 mg, 1.37 mmol) was dissolved in 10 mL of 2 M HCl-EtOH (1:1). The solution was divided into two sealed tubes (5 mL/tube). Each tube was heated at 120° C. in a Personal Chemistry microwaves instrument for 1 h. The fractions were pooled and the solvent was evaporated. The residue was diluted with 2 M NaOH and extracted (3×) with EtOAc. The organic phase was washed with saturated aqueous NaCl solution and dried over anhydrous Na2SO4. The solvent was evaporated. Yield: 440 mg (99%); 1H NMR (400 MHz, CDCl3) δ 1.40-1.52 (m, 2 H), 1.52-1.54 (m, 9 H), 1.56-1.66 (m, 4 H), 1.68-1.75 (m, 2 H), 2.07-2.17 (m, 3 H), 4.14 (d, J=7.62 Hz, 2 H), 6.65 (dd, J=8.50, 2.25 Hz, 1 H), 7.04-7.09 (m, 2 H).

reactant | N-{2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}acetamide | 1.37 mmol, 500 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NC(C)=O | C20H27F2N3O
solvent | HCl EtOH | 2 M, 10 mL | Cl.CCO
product | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-amine | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)N | C18H25F2N3
